US06333414B1
Preparation of 2-phenyl-4,5-di(p-tolyl)oxazole
0.5 g of 2-oxo-1,2-di(p-tolyl)ethyl benzoate is dissolved in 10 ml of dimethylformamide in a reactor. 0.22 g of thiourea (2 eq.) is subsequently added and the reaction mixture is left to react at reflux (160° C.) for 5 hours. The solution is poured onto a water/ice mixture. The precipitated product is washed with water, filtered through a sintered glass filter under vacuum and placed overnight in a desiccator before being purified on a column of silica gel with dichloromethane as elutent.

reactant | 2-oxo-1,2-di(p-tolyl)ethyl benzoate | 0.5 g | C(C1=CC=CC=C1)(=O)OC(C(C1=CC=C(C=C1)C)=O)C1=CC=C(C=C1)C | C23H20O3
reactant | thiourea | 0.22 g, 2 eq. | NC(=S)N | CH4N2S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-phenyl-4,5-di(p-tolyl)oxazole | C1(=CC=CC=C1)C=1OC(=C(N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C23H19NO
